US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-chlorophenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 32.8 mg (0.21 mmol) of 4-chlorophenyl isocyanate. After 16 h at room temperature, the mixture is concentrated in vacuo. The residue is dissolved in a 1:1 mixture of water and acetonitrile and purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 29 mg (55.2% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenyl isocyanate | 0.21 mmol, 32.8 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-chlorophenyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC=C(C=C1)Cl | InChI=1S/C23H23ClN4O2S.ClH/c24-16-2-5-17(6-3-16)25-23(30)26-18-4-1-15-11-21(31-20(15)12-18)22(29)27-19-13-28-9-7-14(19)8-10-28;/h1-6,11-12,14,19H,7-10,13H2,(H,27,29)(H2,25,26,30);1H/t19-;/m0./s1
